US07169778B2
2. 5Amino-2-[[4-[2-(diethylamino)ethoxy]phenyl]amino]-4-(methylamino)pyrimidine
Hydrogenation of 2-[[4-[2-(diethylamino)ethoxy]phenyl]amino]-4-(methylamino)-5-nitropyrimidine (from Example 2(2) above) over Pd/C gave the title compound as an oil.

reactant | 2-[[4-[2-(diethylamino)ethoxy]phenyl]amino]-4-(methylamino)-5-nitropyrimidine | C(C)N(CCOC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC)[N+](=O)[O-])CC | C17H24N6O3
catalyst | Pd/C | [Pd] | Pd
product | 5Amino-2-[[4-[2-(diethylamino)ethoxy]phenyl]amino]-4-(methylamino)pyrimidine | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCN(CC)CC)NC | C17H26N6O
